US08476297B2
(1R,2S,5R)-2-Isopropyl-5-methylcyclohexyl 1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate
A solution of 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (100 mg, 0.361 mmol, example 9 (step 3) and (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl carbonochloridate (76.5 μL, 0.361 mmol) in DCM (1 mL) was stirred at RT for 16 h. Then, H2O (2 mL) was added and the mixture was extracted with EtOAc (2×5 mL). The combined organic extracts were dried over MgSO4 and concentrated. The residue was purified by silica gel flash column chromatography (0%-100% EtOAc/hexane) to give the title compound as an off-white oil. MS (ESI, positive ion) m/z: 460 (M+H).

reactant | 1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | FC(C1=CC=C(C=C1)C1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | (1R,2S,5R)-2-isopropyl-5-methylcyclohexyl carbonochloridate | 0.361 mmol, 76.5 μL | C(O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)(=O)Cl | C11H19ClO2
reactant | H2O | 2 mL | O | H2O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S,5R)-2-Isopropyl-5-methylcyclohexyl 1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxylate | FC(C1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(=O)O[C@H]1[C@@H](CC[C@H](C1)C)C(C)C)(F)F | C27H32F3NO2
